US07956216B2
67A: 2-(N-Boc-amino)-ethanol
To a solution of ethanolamine (500 mg, 8.2 mmol) in 10 mL of dry CH2Cl2 was added DMAP (50 mg, 0.4 mmol), triethylamine (1.25 mL, 9 mmol) and Boc2O (1.96 g, 90 mmol). The reaction was stirred overnight at room temperature. The reaction mixture was then washed with 10% citric acid, saturated NaHCO3 and brine, dried over MgSO4 and concentrated. A clear oil was obtained which was used without further purification (1 g, 76%). NMR 1H (ppm, CDCl3): 5.07 (br. s., 1H), 3.64-3.63 (m, 2H), 3.24-3.23 (m, 2H), 2.9 (br. s., 1H), 1.40 (s, 9H).

reactant | ethanolamine | 8.2 mmol, 500 mg | C(O)CN | C2H7NO
reactant | triethylamine | 9 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 90 mmol, 1.96 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.4 mmol, 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(N-Boc-amino)-ethanol | C(=O)(OC(C)(C)C)NCCO | C7H15NO3
